US07951950B2
A round bottom flask with magnetic stirrer was charged with 2-(2-nitro-phenyl)4-oxo-pentanoic acid methyl ester (4.74 g, 19.1 mmol) and anhydrous ethanol (50 mL). To the reaction was added 10% palladium on carbon (0.948 g, 20% by weight) and the reaction stirred at room temperature under a hydrogen gas atmosphere (balloon) for 18-20 hours. The reaction was filtered through a pad of celite and the celite pad washed with warm ethanol. The combined filtrates were concentrated in vacuo to afford an off-white colored solid. This material was purified via Isco flash system (0-20% ethyl acetate/hexanes) to yield 2.64 g of cis-2-methyl-1,2,3,4-tetrahydro-quinoline-4-carboxylic acid methyl ester as a white solid (68%). 1H-NMR (CDCl3) δ: 1.23 (3H, d), 1.95 (1H, dd), 2.10-2.18 (1H, m), 3.34-3.46 (1H, m), 3.74 (3H, s), 3.94 (1H, dd), 6.51 (1H, dd), 6.60-6.67 (1H, m), 6.94-7.03 (2H, m). MS m/z: 206 (M+1).

reactant | 2-(2-nitro-phenyl)4-oxo-pentanoic acid methyl ester | 19.1 mmol, 4.74 g | COC(C(CC(C)=O)C1=C(C=CC=C1)[N+](=O)[O-])=O | C12H13NO5
catalyst | palladium on carbon | 0.948 g | [Pd] | Pd
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | cis-2-methyl-1,2,3,4-tetrahydro-quinoline-4-carboxylic acid methyl ester | 2.64 g, 68% | COC(=O)[C@@H]1C[C@@H](NC2=CC=CC=C12)C | C12H15NO2
